US05530019
The procedure of Ex. 16 was repeated except that ethyl 4-[3-(3-ethoxycarbonylpropionyl)-1-indolyl]butyrate obtained in Ex. 40 was used in place of 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate to give 4-[3-(3-carboxy-propionyl)-1-indolyl]butyric acid as a powder.

reactant | ethyl 4-[3-(3-ethoxycarbonylpropionyl)-1-indolyl]butyrate | C(C)OC(=O)CCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C20H25NO5
reactant | 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)[O-])CCC
product | 4-[3-(3-carboxy-propionyl)-1-indolyl]butyric acid | C(=O)(O)CCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O | C16H17NO5
